US03946050
6. 5-ISOPROPYL-NONANE-2,8-DIONE
1.96 g (10 mM) of 5-isopropyl-non-3-ene-2,8-dione, prepared according to the method described in paragraph a) of example 2, in 20 ml of ethyl acetate were reduced by catalytic hydrogenation in the presence of 0.196 g of palladium at 10 % over charcoal. After filtration and evaporation of the volatile portions, a residue was obtained which by fractional distillation gave 1.77 g (89 %), of the desired dione;

reactant | 5-isopropyl-non-3-ene-2,8-dione | 10 mM, 1.96 g | C(C)(C)C(C=CC(C)=O)CCC(C)=O | C12H20O2
reactant | charcoal | C | CH4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.196 g | [Pd] | Pd
product | 5-ISOPROPYL-NONANE-2,8-DIONE | C(C)(C)C(CCC(C)=O)CCC(C)=O | C12H22O2
